US06723744B2
Step B: Preparation of N-Cyclobutyl-5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonamide
To a solution of 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride (1.3 grams, 3.2 mmol) in methylene chloride (30 mL) at 0° C. was added triethylamine (0.58 mL, 4.1 mmol) followed by cyclobutylamine (0.27 mL, 3.2 mmol). After stirring at room temperature for 2 hours, the reaction mixture was quenched with 1N hydrochloric acid (25 mL) and extracted with methylene chloride (3 times 15 mL). The combined organic extracts were washed with 1N HCl (20 mL), saturated aqueous NaHCO3 (2 times 20 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (30% ethyl acetate in hexane) to afford the title compound (531 mg). 1H NMR (400 MHz, CDCl3) δ8.28 (s, 2H), 7.28 (d, 1H), 7.07-7.04 (dd, 1H), 6.98 (d, 1H), 5.26 (d, 1H), 3.96 (s, 3H), 3.71-3.69 (m, 1H), 1.99-1.92 (m, 2H), 1.74-1.68 (m, 2H), 1.57-1.48 (m, 2H). MS (APCI−) Calc: 446.1, Found: 445.2 (M−1).

reactant | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride | 3.2 mmol, 1.3 grams | ClC1=C(OC=2C=CC(=C(C2)S(=O)(=O)Cl)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C13H8Cl3NO6S
reactant | triethylamine | 4.1 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | cyclobutylamine | 3.2 mmol, 0.27 mL | C1(CCC1)N | C4H9N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclobutyl-5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonamide | 531 mg | C1(CCC1)NS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)OC | C17H16Cl2N2O6S
